US06265434B1
1,1,1-Triacetoxy-1,1-dihydro-1,2-benzoiodoxol-3(1H)-one (1.92 g, 4.53 mmol) was added to a solution of 1-(benzyloxycarbonyl)-4-(hydroxymethyl)piperidine (1.00 g, 4.01 mmol) in CH2Cl2 (20 mL) and the mixture was stirred at RT for 45 min. Ether (75 mL) and 1.3 N NaOH (25 mL) were added and stirring was continued for 15 min. The mixture was transferred to a separatory funnel with additional ether (30 mL) and 1.3 N NaOH (20 mL). The organic layer was separated, washed with saturated aq. NaCl (20 mL, dried (Na2SO4), decanted,and evaporated to give 846 mg of 1-(benzyloxycarbonyl)-4-piperidine carboxaldehyde as a colorless syrup.

reactant | 1-(benzyloxycarbonyl)-4-(hydroxymethyl)piperidine | 4.01 mmol, 1.00 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CO | C14H19NO3
reactant | Ether | 75 mL | CCOCC | C4H10O
reactant | NaOH | 1.3 N, 25 mL | [OH-].[Na+]
reactant | ether | 30 mL | CCOCC | C4H10O
reactant | NaOH | 1.3 N, 20 mL | [OH-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(benzyloxycarbonyl)-4-piperidine carboxaldehyde | 846 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
